US07053088B2
(3-Methanesulfonylphenyl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine.
Analogous to the procedure used to prepare Example 5(b), 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine, Example 5(a), (200 mg, 0.77 mmol) and 3-methylsulphonylaniline hydrochloride (80 mg, 0.39 mmol, Acros) afforded a crude reaction product mixture, which was partitioned between EtOAc (100 mL) and 1 N NaOH (50 mL). The organic layer was washed with 1 N NaOH (50 mL), water (50 mL), satd NaCl (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (9:1 CH2Cl2/EtOAc) provided the title product as a white solid. MS (ESI, pos. ion) m/z: 394 (M+1). MP: 204–205° C.

reactant | 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine | ClC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | 3-methylsulphonylaniline hydrochloride | 0.39 mmol, 80 mg | Cl.CS(=O)(=O)C=1C=C(N)C=CC1
product | (3-Methanesulfonylphenyl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine | CS(=O)(=O)C=1C=C(C=CC1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C18H14F3N3O2S
